US07091232B2
2-(2-Bromo-cyclopent-2-enyl)-ethanol Intermediate FIVE1 (1.21 g, 6.33 mmol) in benzene (40 mL), and Na2CO3 (7 mL, 2M) was treated with a solution of 2-fluorophenylboronic acid (1.08 g, 7.72 mmol) in EtOH (28 mL). Tetrakis(triphenylphosphine)palladium(0), Pd(PPh3)4 (0.38 g, 5 mol %) was added and the mixture was heated to 80° C. for 1.5 h. The mixture was diluted with water and extracted with diethyl ether (2×). The combined organic layers were dried over MgSO4, filtered and evaporated to dryness. The oil was purified by column chromatography on silica gel with 30% EtOAc:hexane to give 2-[2-(2-fluoro-phenyl)-cyclopent-2-enyl]-ethanol Intermediate FIVE2 (1.21 g).

reactant | 2-(2-Bromo-cyclopent-2-enyl)-ethanol | BrC=1C(CCC1)CCO | C7H11BrO
reactant | Na2CO3 | 2M, 7 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-fluorophenylboronic acid | 7.72 mmol, 1.08 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
solvent | EtOH | 28 mL | CCO | C2H6O
solvent | water | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 0.38 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[2-(2-fluoro-phenyl)-cyclopent-2-enyl]-ethanol | FC1=C(C=CC=C1)C=1C(CCC1)CCO | C13H15FO
